US07179823B1
A mixture of diethyl [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methylmalonate (6.08 g), 4N sodium hydroxide solution (10 ml), and ethanol (10 ml) was refluxed for 1 hour. After cooling, 1N hydrochloric acid (40 ml) was added to the mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless oily substance was dissolved in pyridine (50 ml), and stirred at 110° C. for 2 hours. After pyridine was removed under reduced pressure, ethyl acetate was added to the residue. The resulting solution was washed successively with dilute hydrochloric acid and saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propionic acid (4.02 g, yield: 80%). This was recrystallized from acetone-hexane. Melting point: 172˜173° C.

reactant | diethyl [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methylmalonate | 6.08 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CC(C(=O)OCC)C(=O)OCC)C=2SC=CC2)C=C1 | C33H33N3O6S
reactant | sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 40 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propionic acid | 4.02 g, yield: 80% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C=2SC=CC2)C=C1 | C28H25N3O4S
